US08053438B2
To a stirred solution of diisopropylamine (3.06 mL, 21.81 mmol) in THF (50 mL) at −78° C. under an argon atmosphere was added butyllithium (8.73 mL, 21.81 mmol, 2.5 M in hexanes). The mixture was stirred for 5 min before dihydro-2H-pyran-3(4H)-one (1.82 g, 18.18 mmol) in THF (15 mL) was added slowly via syringe. The mixture was stirred for an additional 15 min before n-phenyltrifluoromethanesulfonimide (7.14 g, 20.00 mmol) in THF (15 mL) was added slowly via syringe. The reaction mixture was then stirred at −78° C. for an additional 15 min before being allowed to warm to room temperature and stir for 1 h. Sat. aqueous sodium bicarbonate was added, and the mixture was extracted with EtOAc (2×). The combined organic layers were washed with sat. sodium chloride, dried over magnesium sulfate, filtered, and concentrated in vacuo. The resulting crude oil was purified by silica gel chromatography to give 5,6-dihydro-2H-pyran-3-yl trifluoromethanesulfonate.

reactant | diisopropylamine | 21.81 mmol, 3.06 mL | C(C)(C)NC(C)C | C6H15N
reactant | butyllithium | 21.81 mmol, 2.5 M, 8.73 mL | C(CCC)[Li]
reactant | dihydro-2H-pyran-3(4H)-one | 18.18 mmol, 1.82 g | O1CC(CCC1)=O | C5H8O2
reactant | n-phenyltrifluoromethanesulfonimide | 20.00 mmol, 7.14 g | C1=CC=C(C=C1)N(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C8H5F6NO4S2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | THF | 15 mL | C1CCOC1 | C4H8O
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | 5,6-dihydro-2H-pyran-3-yl trifluoromethanesulfonate | FC(S(=O)(=O)OC=1COCCC1)(F)F | C6H7F3O4S
